US09376418B2
DBU (10.0 μL, 0.066 mmol) was added to a mixture of (1Z)—N′-hydroxy-2-methyl-2-{[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]amino}propanimidamide bis-TFA salt (14.0 mg, 0.025 mmol) and CDI (4.26 mg, 0.026 mmol) in dioxane (100 μL). The reaction was stirred at room temperature overnight. The reaction mixture was filtered, diluted with DMF (500 μL), and directly purified by reverse phase HPLC. The isolated material was repurified by silica gel chromatography (0-100% ethyl acetate in hexanes with 1% triethylamine and then 20% methanol in dichloromethane) to yield 3-(2-{[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]amino}propan-2-yl)-1,2,4-oxadiazol-5(4H)-one. MS APCI calc'd for C22H21F3N7O2 [M+H]+ 472. found 472. 1H NMR (500 MHz, CDCl3) δ 8.67 (d, J=5.2 Hz, 1H), 8.34 (s, 1H), 7.79 (d, J=11.5 Hz, 2H), 7.41 (s, 1H), 7.31 (s, 1H), 7.05 (d, J=5.2 Hz, 2H), 6.64 (d, J=9.1 Hz, 1H), 2.43 (s, 3H), 1.80 (s, 6H).

reactant | DBU | 0.066 mmol, 10.0 μL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | (1Z)—N′-hydroxy-2-methyl-2-{[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]amino}propanimidamide bis-TFA salt | 0.025 mmol, 14.0 mg | OC(=O)C(F)(F)F.OC(=O)C(F)(F)F.O\N=C(\C(C)(NC1=NC=C(C=C1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C)C)/N
reactant | CDI | 0.026 mmol, 4.26 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | dioxane | 100 μL | O1CCOCC1 | C4H8O2
product | 3-(2-{[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]amino}propan-2-yl)-1,2,4-oxadiazol-5(4H)-one | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C=1C=CC(=NC1)NC(C)(C)C1=NOC(N1)=O | C22H20F3N7O2
